US07253196B2
2-(2-Chlorophenyl)propan-2-amine
2-(2-Chlorophenyl)-2-methylpropanenitrile (5.0 g, 0.028 mol) along with 50 mL of EtOH was added into a 250 mL round-bottomed flask. To this was added 50 mL of saturated aqueous K2CO3. This mixture was cooled to 0° C. then 85 mL of 30% aqueous H2O2 was slowly added. The reaction mixture was allowed to warm to room temperature, and then it was stirred at that temperature for 12 h. The mixture was extracted with CH2Cl2 (3×150 mL), and the combined organic extracts were dried over MgSO4, filtered, and concentrated in vacuo to give a viscous oil. To this oil was added 40 mL of CH3CN, 40 mL H2O, and 13.2 g (0.031 mol) of PhI(O2CCF3)2. This mixture was stirred at r.t. for 12 h, diluted with 300 mL of H2O, and then stirred for an additional 4 h at room temperature. The aqueous phase was extracted using MTBE (1×200 mL) follow by diethyl ether (2×100 mL). The aqueous layer was basified with 1N NaOH (pH=13) and then extracted with CH2Cl2 (3×100 mL). The organic extracts were dried and concentrated in vacuo to give the desired product as a colorless oil that was used in subsequent steps without further purification.

reactant | 2-(2-Chlorophenyl)-2-methylpropanenitrile | 0.028 mol, 5.0 g | ClC1=C(C=CC=C1)C(C#N)(C)C | C10H10ClN
reactant | EtOH | 50 mL | CCO | C2H6O
reactant | K2CO3 | 50 mL | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O2 | 85 mL | OO | H2O2
reactant | CH3CN | 40 mL | CC#N | C2H3N
solvent | H2O | 300 mL | O | H2O
solvent | H2O | 40 mL | O | H2O
product | 2-(2-Chlorophenyl)propan-2-amine | ClC1=C(C=CC=C1)C(C)(C)N | C9H12ClN
